US08735574B2
In some aspects, a method of synthesizing a metal mesoporphyrin compound comprises forming a protoporphyrin methyl ester from hemin and converting the protoporphyrin methyl ester intermediate to a metal mesoporphyrin compound through metal insertion and hydrogenation. In some embodiments, metal insertion yields a metal protoporphyrin dimethyl ester intermediate. In further embodiments, the metal protoporphyrin dimethyl ester is hydrogenated in dichloromethane over palladium catalyst to form a metal mesoporphyrin dimethyl ester. In embodiments, the metal mesoporphyrin dimethyl ester is heated in dilute ammonium hydroxide to form the metal mesoporphyrin compound. In embodiments, the metal may comprise tin, iron, zinc, chromium, manganese, copper, nickel, magnesium, cobalt, platinum, gold, silver, arsenic, antimony, cadmium, gallium, germanium, palladium, or the like. In some embodiments, tin is the inserted metal. In embodiments, tin is inserted into mesoporphyrin to make stannsoporfin using tin oxide, tin chloride, tin sulfate, tin bromide, tin oxalate, tin pyrophosphate hydrate, tin 2-ethylhexanoate, tin methanesulfonic acid, or tin trifluromethanesulfonate.

reactant | protoporphyrin dimethyl ester | CC1=C(C2=CC3=C(C(=C(N3)C=C4C(=C(C(=N4)C=C5C(=C(C(=N5)C=C1N2)C)CCC(=O)OC)CCC(=O)OC)C)C=C)C)C=C | C36H38N4O4
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | palladium | [Pd] | Pd
product | mesoporphyrin dimethyl ester | CCC1=C(C2=CC3=C(C(=C(N3)C=C4C(=C(C(=N4)C=C5C(=C(C(=N5)C=C1N2)C)CCC(=O)OC)CCC(=O)OC)C)C)CC)C | C36H42N4O4
